US07001914B2
(R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(5-(3-hydroxyphenyl)thiophene-2-carboxamide)
To the (R)-N-(1-azabicyclo[2.2.2]oct-3-yl)(5-(3-methoxyphenyl)thiophene-2-carboxamide) (900 mg), 48% aqueous hydrobromic acid (10 mL) and glacial acetic acid (10 mL) were added. After heating under reflux for 4 h, saturated aqueous sodium carbonate and solid sodium carbonate were added to adjust to pH 10. The aqueous layer was extracted with chloroform and the combined extracts were dried over magnesium sulfate. After filtration and evaporation, residue was purified by flash chromatography using 5%-20% 3.5M methanolic ammonia/chloroform mixtures as the eluent. The product obtained was purified by reverse phase HPLC on a Waters Bondapak® C18 column using a gradient of acetonitrile and 0.1% aqueous trifluoroacetic acid as the eluent. The hydrochloride salt was prepared by evaporation of the product-containing fractions, dissolution of the residue in methanol, addition of excess hydrogen chloride solution (1M in diethyl ether) and evaporation. Recrystallisation from methanol/diethyl ether gave the hydrochloride salt of the title compound as a colourless solid (32 mg); MS (ES+) 329 (MH+).

reactant | (R)-N-(1-azabicyclo[2.2.2]oct-3-yl)(5-(3-methoxyphenyl)thiophene-2-carboxamide) | 900 mg | N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC(=CC2)C2=CC(=CC=C2)OC | C19H22N2O2S
reactant | hydrobromic acid | 10 mL | Br | BrH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrogen chloride | 1M | Cl | ClH
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | (R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(5-(3-hydroxyphenyl)thiophene-2-carboxamide) | 32 mg | N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC(=CC2)C2=CC(=CC=C2)O | C18H20N2O2S
